US07326803B2
Synthesis of 4-[5,5,8,8-tetramethyl-4-(4-methylbenzyloxy)-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoic acid
In a manner similar to Example 1g, by reacting 650 mg (1.2 mmol) of methyl 4-[5,5,8,8-tetramethyl-4-(4-methylbenzyloxy)-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoate with 240 mg of sodium hydroxide. A yellow crystallized solid is obtained (m=580 mg; yield=91%; m.p.=254° C.).

reactant | methyl 4-[5,5,8,8-tetramethyl-4-(4-methylbenzyloxy)-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoate | 1.2 mmol, 650 mg | CC1(C=2C(=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C(=O)OC)C=C1)OCC1=CC=C(C=C1)C)C | C32H34O3Se
reactant | sodium hydroxide | 240 mg | [OH-].[Na+]
product | 4-[5,5,8,8-tetramethyl-4-(4-methylbenzyloxy)-5,6,7,8-tetrahydro-2-naphthylselanylethynyl]benzoic acid | CC1(C=2C(=CC(=CC2C(CC1)(C)C)[Se]C#CC1=CC=C(C(=O)O)C=C1)OCC1=CC=C(C=C1)C)C | C31H32O3Se
